US04183931
To a refluxing slurry of 2.5 g (52 mmol) of 50% sodium hydride in 150 ml of DME was added 1.14 g (13 mmol) of ethyl acetate in 20 ml of DME. After a reaction period of 1.5 hours, hydrogen evolution ceased (285 ml at STP, 12.7 mmol) and the reaction mixture was worked up as described above to give a 0.47 g (62%) of crude ethyl acetoacetate, which was identified by VPC.

reactant | sodium hydride | 52 mmol, 2.5 g | [H-].[Na+]
reactant | ethyl acetate | 13 mmol, 1.14 g | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
reactant | DME | 150 ml | COCCOC | C4H10O2
reactant | DME | 20 ml | COCCOC | C4H10O2
product | ethyl acetoacetate | 0.47 g, 62% | C(CC(=O)C)(=O)OCC | C6H10O3
